US06509035B1
Production of a Raw Material of the CoA Oral Preparation
750 ml salt-free water were added to 500,000 units of CoA acetone powder, then 25 g Vitamin C, 25 g sodium dihydrogen phosphate and 25 g mannitol were added in turn, the mixture was stirred to dissolve and lyophilized.

reactant | CoA acetone | CC(=O)C.[C@@H]1([C@H](O)[C@H](OP(=O)(O)O)[C@@H](COP(=O)(O)OP(=O)(O)OCC(C)(C)[C@@H](O)C(=O)NCCC(=O)NCCS)O1)N1C=NC=2C(N)=NC=NC12
reactant | Vitamin C | 25 g | OC=1[C@H](OC(C1O)=O)[C@H](CO)O | C6H8O6
reactant | sodium dihydrogen phosphate | 25 g | P(=O)(O)(O)[O-].[Na+]
reactant | mannitol | 25 g | C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
solvent | water | 750 ml | O | H2O
product | CoA | CC(C)(COP(=O)(O)OP(=O)(O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N2C=NC3=C2N=CN=C3N)O)OP(=O)(O)O)[C@H](C(=O)NCCC(=O)NCCS)O | C21H36N7O16P3S
